data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2049,2274,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[NH:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:26]([CH3:27])([C:28]([CH3:29])=[O:30])[N:24]([CH3:25])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20](=[O:21])[NH:22][CH3:23],water,298.15,23.60478860619664,-18.3320432770162
3243,3665,[CH2:10]=[NH+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH2:10][NH:11][C:12]1([CH3:13])[C:14]([CH3:15])=[O:16],water,298.15,16.433225705670942,-18.37076049774573
1295,1417,[CH3:18][C:19](=[O:20])[CH:21]=[N+:22]([CH3:23])[N-:24][C:25]#[N:26].[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH:21]([C:19]([CH3:18])=[O:20])[N:22]([CH3:23])[N:24]2[C:25]#[N:26],water,298.15,12.41053794336522,-34.47352341688609
3649,4169,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][n:16][o:17][c:18]1=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][N:16]1[O:17][C:18]2=[O:19],water,298.15,15.663463443002248,-15.676713635409556
2387,2652,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([NH+:17]=[C:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:18]([C:19](=[O:20])[O:21][CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,26.985149479394806,-22.86772855326492
2108,2341,[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([Cl:15])([Cl:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22]#[N+:23][C-:24]([C:25]#[N:26])[C:27]([CH3:28])=[O:29]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([Cl:15])([Cl:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:22]([CH3:21])=[N:23][C:24]2([C:25]#[N:26])[C:27]([CH3:28])=[O:29],water,298.15,20.65692305247271,-46.152778988335065
4663,5318,[CH3:10][O:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([O:11][CH3:10])=[O:13])[NH:15][C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[O:23][C:24]2=[O:25],water,298.15,31.131010608781363,11.0690413762762
2007,2229,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([O+:18]=[C:19]([CH3:20])[C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([F:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([F:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:19]([CH3:20])([C:21](=[O:22])[O:23][CH3:24])[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[C:25](=[O:26])[O:27][CH3:28],water,298.15,11.241443579516444,-59.98750103716674
2940,3280,[CH2:1]=[CH2:2].[CH3:3][C-:4]([CH3:5])[N+:6]([CH3:7])=[C:8]([C:9]#[N:10])[C:11]#[N:12]>>[CH2:1]1[CH2:2][C:4]([CH3:3])([CH3:5])[N:6]([CH3:7])[C:8]1([C:9]#[N:10])[C:11]#[N:12],water,298.15,26.15124817520173,-17.14660040680702
540,590,[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19]#[N:20])[C:21]#[N:22].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:18]([C:19]#[N:20])([C:21]#[N:22])[N:16]([CH3:17])[C:14]2([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,25.82991324327521,-13.7260709713676
5087,5775,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24](=[O:25])[NH:26][CH3:27])[o+:28]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]1([C:24](=[O:25])[NH:26][CH3:27])[C:21](=[O:22])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[O:28]1,water,298.15,16.805376714576916,-4.4696143627254
3694,4216,[N:6]#[N+:7][C-:8]([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:7]=[N:6]1,water,298.15,63.7432882363224,63.63984525313654
